US04761475
A. 7-Methoxy-8-nitroquinoline
To a freshly prepared solution of sodium (16.5 g, 0.720 mol) in methanol (750 mL) was added 7-chloro-8-nitroquinoline (18.72 g, 0.090 mol) [E. Fourneau, M. and Mme. Trefouel, and A. Wancolle, Bull. Soc. Chim. Fr., 47, 738(1930); A. K. Sen, N. K. Ray, V. P. Basu, J. Sci. Ind. Res., 11B, 322(1952) (C.A. 47, 4339e)]. This mixture was refluxed for 3 hr, cooled, then filtered to collect the precipitated solid. This solid was slurried in water, collected on a filter and dried; yield, after recrystalllization from toluene, 16.12 g (88%); mp 178°-178.5°: Anal. Calcd for C10H8N2O3 : C, 58.82; H, 3.95; N, 13.72. Found: C, 58.66; H, 3.87; N, 13.69.

reactant | sodium | 0.720 mol, 16.5 g | [Na] | Na
reactant | 7-chloro-8-nitroquinoline | 0.090 mol, 18.72 g | ClC1=CC=C2C=CC=NC2=C1[N+](=O)[O-] | C9H5ClN2O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methanol | 750 mL | CO | CH4O
product | 7-Methoxy-8-nitroquinoline | COC1=CC=C2C=CC=NC2=C1[N+](=O)[O-] | C10H8N2O3
